US06262045B1
9.1. 1-(Chloromethyl)-5,8-dimethyl-3-phenyl-3,5-dihydro-4H-pyridazino[4,5-b]indol-4-one
50 ml of pyridine are added to a suspension of 9.5 g (29.7 mmol) of 1-(hydroxymethyl)-5,8-dimethyl-3-phenyl-3,5-dihydro-4H-pyridazino[4,5-b]indol-4-one in 600 ml of tetrahydrofuran heated to 60° C. 4.5 ml (59.4 mmol) of methanesulphonyl chloride are added and the mixture is left standing for 15 h at room temperature. 500 ml of dichloromethane are added, the precipitate is removed by filtration, separation is carried out by settling and the organic phase is washed with water. It is dried over sodium sulphate and the solvent is evaporated under reduced pressure. 5 g (14.8 mmol) of product are obtained, which product is used as is in the following stage.

reactant | pyridine | 50 ml | N1=CC=CC=C1 | C5H5N
reactant | 1-(hydroxymethyl)-5,8-dimethyl-3-phenyl-3,5-dihydro-4H-pyridazino[4,5-b]indol-4-one | 29.7 mmol, 9.5 g | OCC1=NN(C(C=2N(C=3C=CC(=CC3C21)C)C)=O)C2=CC=CC=C2 | C19H17N3O2
reactant | methanesulphonyl chloride | 59.4 mmol, 4.5 ml | CS(=O)(=O)Cl | CH3ClO2S
reactant | dichloromethane | 500 ml | ClCCl | CH2Cl2
solvent | tetrahydrofuran | 600 ml | O1CCCC1 | C4H8O
product | 1-(Chloromethyl)-5,8-dimethyl-3-phenyl-3,5-dihydro-4H-pyridazino[4,5-b]indol-4-one | 14.8 mmol, 5 g | ClCC1=NN(C(C=2N(C=3C=CC(=CC3C21)C)C)=O)C2=CC=CC=C2 | C19H16ClN3O
